US09108983B2
4-[(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)amino]-1-methyl-1H-pyrrole-2-carbonitrile
Nitrogen is bubbled through a solution of 4-bromo-1-methyl-1H-pyrrole-2-carbonitrile (2.82 g, 15.2 mmol) and 4-[(tert-butyldimethylsilyl)oxy]aniline (4.08 g, 18.3 mmol) in toluene (55 mL) for 5 minutes. Sodium tert-butylate (2.92 g, 30.4 mmol), tris(dibenzylideneacetone)dipalladium(0) (556 mg, 0.6 mmol) and 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (255 mg, 0.6 mmol) are then added to the reaction mixture. The mixture is stirred for 1 hour at 80° C. under nitrogen. The suspension is then cooled to ambient temperature and filtered over Celite. The Celite cake is then rinsed with ethyl acetate. The filtrate is washed with water and then with brine. The organic phase is dried over MgSO4, filtered and concentrated in vacuo. The product is purified twice by chromatography over silica gel using ethyl acetate and heptane as eluants, and then by trituration in heptane to obtain the expected product in the form of a solid.

reactant | 4-bromo-1-methyl-1H-pyrrole-2-carbonitrile | 15.2 mmol, 2.82 g | BrC=1C=C(N(C1)C)C#N | C6H5BrN2
reactant | 4-[(tert-butyldimethylsilyl)oxy]aniline | 18.3 mmol, 4.08 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(N)C=C1 | C12H21NOSi
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.6 mmol, 255 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
solvent | toluene | 55 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.6 mmol, 556 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)amino]-1-methyl-1H-pyrrole-2-carbonitrile | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC=1C=C(N(C1)C)C#N | C18H25N3OSi
